US08710043B2
Step 5. (S)-6-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-hydroxypicolinamide
To a stirred suspension of Raney Nickel (0.2 g, Monarch, India) in MeOH (10 mL), was added (S)—N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-hydroxy-6-nitropicolinamide (200 mg, 0.0004252 mol) at room temperature. The temperature was raised to 56° C. and hydrazine hydrate (0.2 mL, Spectrochem, India) was added very slowly over 5 min (exothermic reaction). The reaction mixture was then stirred for 10 min at the same temperature. After completion of the reaction, monitored by TLC (TLC eluent: 50% EtOAc in petroleum ether, uv active), the mixture was cooled to room temperature, filtered through Celite® brand filter agent and concentrated under high vacuum to remove excess hydrazine hydrate. The resulting product was triturated with petroleum ether to give the title compound as a grey solid. 1H-NMR (400 MHz, DMSO-d6): δ 9.23 (d, J=8 Hz, 1H), 8.57 (d, J=4.4 Hz, 1H), 7.87 (t, J=8.8 Hz, 1H), 7.61-7.54 (m, 2H), 7.47 (d, J=11.6 Hz, 1H), 7.31 (d, J=8.4 Hz, 1H), 7.19 (d, J=8 Hz, 1H), 6.86 (d, J=8 Hz, 1H), 6.57 (d, J=8 Hz, 1H), 5.53 (br. s., 2H). MS (ESI, positive ion) m/z: 441 (M+H).

reactant | (S)—N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-hydroxy-6-nitropicolinamide | 0.0004252 mol, 200 mg | FC=1C=C(C=CC1OC(F)(F)F)[C@H](NC(C1=NC(=C(C=C1)O)[N+](=O)[O-])=O)C1=NC=CC=C1F | C19H11F5N4O5
reactant | hydrazine hydrate | 0.2 mL | O.NN
reactant | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Raney Nickel | 0.2 g | [Ni] | Ni
solvent | MeOH | 10 mL | CO | CH4O
product | (S)-6-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-hydroxypicolinamide | NC1=C(C=CC(=N1)C(=O)N[C@H](C1=NC=CC=C1F)C1=CC(=C(C=C1)OC(F)(F)F)F)O | C19H13F5N4O3
